US07858796B2
(32) 5-(4-fluorophenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide
To a solution of 1,1-dimethylethyl 4-[7-(aminocarbonyl)-5-(4-fluorophenyl)-1H-indol-3-yl]-1-piperidinecarboxylate (92.9 g, 0.205 mmol) in methanol (10 mL), HCl in dioxane (4M, 2.01 mL) was added. The reaction mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure and the resulting residue was partitioned between ethyl acetate (50 mL) and 5% of aqueous NaOH (50 mL). The aqueous layer washed with ethyl acetate (2×50 mL) and the combined organic phases were dried and concentrated under reduced pressure to give desired product (55.9 mg, 78%), which was used in the next step without further purification.

reactant | 1,1-dimethylethyl 4-[7-(aminocarbonyl)-5-(4-fluorophenyl)-1H-indol-3-yl]-1-piperidinecarboxylate | 0.205 mmol, 92.9 g | NC(=O)C=1C=C(C=C2C(=CNC12)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C25H28FN3O3
solvent | MeOH | 10 mL | CO | CH4O
solvent | HCl | Cl | ClH
solvent | dioxane | 4M, 2.01 mL | O1CCOCC1 | C4H8O2
product | 5-(4-fluorophenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide | 55.9 mg, 78% | FC1=CC=C(C=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H20FN3O
